*********************************************************************************
*										*
*	    ,o888888o.    88888888888o.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0160120D Spice Library Beta
***********************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
***********************************************************

*****************************************
****	C2M0160120D SiC MOSFET Model
*****************************************
.subckt C2M0160120D d g s Tj Tc
.param af1=1
xgmos	d1 g1 s1 Tj Tc gmos params: af=af1

Ls 		s	s1	9n
R_Ls 		s	s1      10
Rg 		g1	g2	{6.5/af1}
Lg 		g	g3	15n
R_Lg		g	g3	10
Ld 		d	d3      6n
R_Ld		d	d3	10  
B1_d		d2	d1      I=(V(d2,d1))/((0.0000037524*((V(Tj))**2)+0.0002252381*(V(Tj))+0.1365714286)+1n)
R1_D		d2	d1	1E12
Vg_s		g3	g2	0
Vd_s		d3	d2	0
GH		0	Tj	value = {abs((V(d,s)*I(Vd_s)))+abs((V(g1,g2)*I(Vg_s)))}
XCGD	d1	g1	cgdmos params: af=af1
CGS	g1	s1	{525p*af1}
CDS	d2	s1	{24.96p*af1}
D1	s1	d2	bodydiode

R0 N1 Tj 26.7m
R1 N2 N1 26.7m
R2 N3 N2 75.4m
R3 N4 N3 63.8m
R4 N5 N4 0.141
R5 N6 N5 0.121
R6 N7 N6 69.4m
R7 N8 N7 63.9m
R8 N9 N8 64.9m
R9 N10 N9 59.5m
R10 N11 N10 60.3m
R11 N12 N11 65.8m
R12 N13 N12 50m
R13 Tc N13 15.3m
C0 Tj Tc 0.212m
C1 N1 Tc 0.17m
C2 N2 Tc 0.653m
C3 N3 Tc 0.685m
C4 N4 Tc 0.92m
C5 N5 Tc 0.962m
C6 N6 Tc 2.08m
C7 N7 Tc 5.15m
C8 N8 Tc 8.5m
C9 N9 Tc 17.2m
C10 N10 Tc 32.8m
C11 N11 Tc 57.8m
C12 N12 Tc 0.108
C13 N13 Tc 0.736

.ends C2M0160120D 
*****************************************

.subckt gmos d1 g2 s1 Tj Tc

.param Adj = 0.51

B2_g		NET1	0	V=(-0.0066622857*(V(Tj))+5.3408142857)
R2_g		NET1	0 	1E12
B3_Th		NET2	0	V=((0.0000143389*((V(Tj))**2)-0.0169003973*(V(Tj))+8.0750266590)*Adj)
R3_Th		NET2	0 	1E12
.param p3  = 12	
.param p4  = 0.0257												
.param p5  = 2.2	
.param p6  = 2.0	
.param p7  = 0.5	
.param p8  = 0.001	
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10	
.param p12 = 25		 

R100 g1 s1	1e9
E100 g1 s1 	value = {limit(V(g2,s1),p11,p12)}
 
G1 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos
****************************************

.model bodydiode d(is=1.9e-15 cjo=492.96p bv=1600 m=0.6 EG=3.26 vj=3.82 n=3.21 
+	rs=0.042  trs1=-0.00644686 trs2=0.00001652406 Tnom=25 
+	tt=15n ibv=500u Xti=2 level=1)

.subckt cgdmos d2 g
.param k1=274.3p	
.param k2=0.5		
.param ka=18.096	
.param kb=0.2678	
.param kc=7.5277	
G11 g d1 value = 	{
+		af*k1*(
+		(1+(limit(v(d1,g),0,420))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 {1p*af}
.ends cgdmos
***************************************                                  